Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
cough and shortness of breath
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ woman with a history of autoimmune hepatitis
on chronic prednisone, HTN, severe COPD, lung nodules
representing likely lung cancer planned for biopsy, and remote
PE, presenting with 2 weeks of increasing cough and shortness of
breath.  

 Patient reports not feeling well for the past two weeks, with
intermittent chills, increased coughing and sputum production,
and weakness. She also noticed streaks of blood in her sputum a
couple of days ago. She has had mild nausea, although no
vomiting, diarrhea or abdominal pain. Does not endorse myalgias.
She also endorses "foul smelling urine" for about a week, but no
dysuria. She lives alone at baseline and is fully functional,
although says she has not been eating for the last two weeks,
although she has been drinking minimally and taking her meds. 
Her
son was "really sick" about two weeks ago, just at the onset of
her symptoms, although never required medical care. Of note, she
has been followed here at ___ for lung nodules, and is planned
for a VATS with Dr. ___ on ___.  

 In the ED, initial VS were: T 98.1, HR 65, BP 128/71, RR 20,  
 95% RA  
 Exam notable for:  
 Gen- Weak appearing, although not in acute distress  
 Chest- Diminished lung sounds bilaterally, inspiratory wheezes  

 Abd- Soft, non-tender, non-distended  
 Ext- Trace lower extremity edema  
 Labs showed:  
 - CBC: WBC 9.8, Hgb 13.0, Hct 40.8, Plt 312  
 
 - Lytes:  
 145 / 106 / 30  
 -------------- 122  
 6.2 \ 18 \ 1.1  
 - proBNP: 285  
 - Lactate:2.3  
 - repeat K 5.2  
 Imaging notable for CXR showing:  
 
 1. No new focal opacities suggest pneumonia.  
 2. Redemonstrated cavitary left upper lobe lesion is difficult
to compare prior chest CT and may have slightly grown. This 
could
be further evaluated with nonemergent noncontrast chest CT, if
indicated.  
 3. Emphysema.  
 
 Patient received:  
 /___ 00:28 IH Albuterol 0.083% Neb Soln 1 NEB  
 ___ 00:28 IH Ipratropium Bromide Neb 1 NEB  
 ___ 00:53 IVF NS Started  
 ___ 01:00 IVF NS 1000 mL Stopped (___)  
 ___ 02:41 IH Albuterol 0.083% Neb Soln 1 NEB  
 ___ 02:41 IH Ipratropium Bromide Neb 1 NEB  
 ___ 03:10 PO Benzonatate 100 mg  
 ___ 03:10 IV Azithromycin 500 mg  
 ___ 03:10 PO PredniSONE 60 mg  

 Transfer VS were: T 98.0, HR 102, BP 98/79, RR 22, 95% RA  
 
Past Medical History:
-COPD
-Autoimmune Hepatitis (stage 1 fibrosis)
-Perforation during colonoscopy in ___ requiring ex lap 
-Pulmonary Embolism ___ (provoked by surgery above)
-Systolic Dysfunction on echo (EF 45% ___ but no CHF 
history
-Osteoporosis
-GERD
-Anemia
-S/p Cholecystectomy 

 
Social History:
___
Family History:
Heart disease
Diabetes mellitus
 
Physical Exam:
ADMISSION EXAM: 
Vital Signs: 24 HR Data (last updated ___ @ 1444)
    Temp: 98.1 (Tm 98.6), BP: 117/76 (113-122/70-77), HR: 88
(88-100), RR: 20 (___), O2 sat: 97% (95-97), O2 delivery: RA,
Wt: 153.9 lb/69.81 kg   
General: calm, NAD
HEENT: OP clear, no LAD
CV: RRR, no murmurs
PULM: Markedly decreased air movement in all lung ___ without
wheezing, no rales, no asymmetry
ABD: obese, soft, NT, ND
EXT: No ___ edema, WWP

DISCHARGE EXAM:
24 HR Data (last updated ___ @ 032)
    Temp: 98.4 (Tm 98.6), BP: 118/73 (106-128/69-80), HR: 76
(76-130), RR: 22 (___), O2 sat: 98% (90-98), O2 delivery: Ra  

General: alert, oriented, no acute distress
Eyes:  Sclera anicteric
HEENT: MMM, oropharynx clear  
Neck: supple, no LAD  
Resp: clear to auscultation bilaterally, distant breath sounds,
improved air movement, faint crackles b/l at the bases. no
wheezes ronchi. 
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
GI: soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding, no organomegaly  
MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
DISCHARGE LABS:
___ 06:16AM BLOOD WBC-8.1 RBC-3.43* Hgb-10.3* Hct-33.2* 
MCV-97 MCH-30.0 MCHC-31.0* RDW-14.6 RDWSD-53.0* Plt ___
___ 06:16AM BLOOD Plt ___
___ 06:16AM BLOOD Glucose-121* UreaN-15 Creat-0.8 Na-141 
K-5.1 Cl-104 HCO3-27 AnGap-10
___ 10:33PM BLOOD proBNP-285
___ 06:16AM BLOOD Calcium-9.4 Phos-3.0 Mg-1.6
___ 10:17AM BLOOD Lactate-2.4* K-4.___ woman with a history of autoimmune hepatitis on chronic 
prednisone, HTN, severe COPD, lung nodules representing likely 
lung cancer planned for biopsy, and remote PE, presenting with 2 
weeks of increasing cough and shortness of breath, with 
decreased air movement on exam and no focal consolidation on 
CXR, concerning for COPD exacerbation. 

#Dyspnea, cough
#COPD exacerbation:
Has severe obstructive defect by PFTs (FEV1 0.56L, 44% 
predicted), followed by Dr. ___ as outpatient. Though per 
patient report has not had significant limitiation and does not 
appear to have frequent exacerbations. This admission, poor air 
movement and increased sputum point to this as etiology though. 
Received 60mg prednisone and dropped to 40mg. Discharged on a 
taper (40mg x 3d, 30mg x 3d, 20mg until surgery) per Dr. 
___. Received azithromycin and discharged on 250mg x 4 
days (last dose ___.

# Enlarging FDG-avid pulmonary nodule:
VATS scheduled for ___ prior to this hospitalization. Original 
pre-op appointment being rescheduled due to this 
hospitalization. Dr. ___ Dr. ___ have been 
notified and are coordinating care. 

# CHF: Continued home metoprolol, ASA. Held home lisinopril 
initially but restarted prior to discharge. 

#Chronic: autoimmune hepatitis, CHF, GERD
no modifications 

===================TRANSITIONAL ISSUES===============
[] prednisone taper per Dr. ___: 40mg x 2d (starting 
___, 30mg x 3d (starting ___ 20mg daily (starting ___ 
until instructed otherwise by Dr. ___
[] VATS preop appointment with Dr. ___ being 
rescheduled
[] follow up appointment with Dr. ___ 
currently being rescheduled

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ursodiol 500 mg PO BID 
2. budesonide 0.5 mg/2 mL inhalation DAILY 
3. PredniSONE 10 mg PO DAILY 
4. Ipratropium Bromide Neb 1 NEB IH Q6H 
5. AzaTHIOprine 50 mg PO DAILY 
6. Magnesium Oxide 400 mg PO DAILY 
7. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing 
8. Lisinopril 2.5 mg PO DAILY 
9. Atorvastatin 10 mg PO QPM 
10. Alendronate Sodium 70 mg PO 1X/WEEK (___) 
11. Omeprazole 40 mg PO DAILY 
12. Metoprolol Succinate XL 25 mg PO DAILY 
13. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 1 Dose 
Just take this once.  
2.  Benzonatate 100 mg PO TID  
3.  PredniSONE 20 mg PO DAILY 
Starting ___: 40mg daily
Starting ___: 30mg daily Starting ___: 20mg daily  
4.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing  
5.  Alendronate Sodium 70 mg PO 1X/WEEK (FR)  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 10 mg PO QPM  
8.  AzaTHIOprine 50 mg PO DAILY  
9.  Budesonide 0.5 mg/2 mL inhalation DAILY  
10.  Ipratropium Bromide Neb 1 NEB IH Q6H  
11.  Lisinopril 2.5 mg PO DAILY  
12.  Magnesium Oxide 400 mg PO DAILY  
13.  Metoprolol Succinate XL 25 mg PO DAILY  
14.  Omeprazole 40 mg PO DAILY  
15.  Ursodiol 500 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
primary: COPD exacerbation

secondary: 
lung nodule, hypertension, autoimmune hepatitis, heart failure, 
hiatal hernia, gastroesophageal reflux disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
================================================  
  MEDICINE Discharge Worksheet  
================================================  
  Dear ___,  
  It was a pleasure taking part in your care here at ___!  

 Why was I admitted to the hospital?  
  - You were admitted to ___ for cough and difficulty 
breathing. Your COPD was worsened, likely due to exposure to 
your son who was sick. 

 What was done for me while I was in the hospital?  
  - You received your usual inhaler medications, antibiotics, 
and a higher dose of prednisone than what you take normally. You 
also received a thorough investigation including blood tests and 
a chest X-ray. 
  - We have notified Dr. ___ Dr. ___ are 
coordinating your care together to prepare you for your upcoming 
VATS lung procedure. 

 What should I do when I leave the hospital?  
  - You should take the new medications we've prescribed for you 
and follow up with your scheduled appointments. 
  - Dr. ___ is scheduling a follow up appointment in the 
next week and will be in contact with you. 

 Sincerely,  
  Your ___ Care Team  

 
Followup Instructions:
___